US05892138
This example describes the reaction of cumene with liquid bromine to give 4-bromocumene. 10 g of cumene, 5 g of catalyst composite material, zeolite K-L and 2.14 ml bromine were mixed in a batch reactor. The reaction mixture was stirred and heated up to 70° C. After completion of the reaction, the mixture was let to cool to room temperature and analysed by gas-chromatography. The conversion of cumene and the selectivity for 4-bromocumene were found to be 10.7 wt. % and 78.8%, respectiveley.

reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | bromine | BrBr | Br2
product | 4-bromocumene | BrC1=CC=C(C=C1)C(C)C | C9H11Br
